US04009184
2-Phenyl-3-(3-pyrrolidinopropionyl)benzofuran.
To a solution of 23.6 grams of 2-phenyl-3-acetylbenzofuran in 70 milliliters of isopropanol was added 4.2 grams of paraformaldehyde, 10 grams of pyrrolidine and 30 milliliters of a saturated solution of hydrogen chloride in ethanol and the mixture was heated under reflux at its boiling point for 10 hours.

reactant | 2-phenyl-3-acetylbenzofuran | 23.6 grams | C1(=CC=CC=C1)C=1OC2=C(C1C(C)=O)C=CC=C2 | C16H12O2
reactant | paraformaldehyde | 4.2 grams | C=O | CH2O
reactant | pyrrolidine | 10 grams | N1CCCC1 | C4H9N
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 70 milliliters | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-Phenyl-3-(3-pyrrolidinopropionyl)benzofuran | C1(=CC=CC=C1)C=1OC2=C(C1C(CCN1CCCC1)=O)C=CC=C2 | C21H21NO2
